Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 "I am sad all the time"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old female with PMH of self-reported 
depression, PCOS and GERD who was BIBA after being found about 
to jump into the ___ as a suicide attempt, held back 
by her boyfriend after an altercation.
On interview, she becomes intermittently tearful when discussing
her PCOS and the impact it has had on her mood, her anxieties
about whether she can have children in the future and the 
medical
complications she has had as a result (ruptured ovaries?). She
also reports depression that has been long-standing since ___
grade with episodes of depersonalization that occur in the
setting of overwhelming thoughts of suicide. She notes that she
has never tried to attempt suicide in the past because she was
too scared to do so and because there was always an external
support that would comfort her during these episodes (in the
past, her mother; recently, her boyfriend). She reports feeling
fine now and wanting to go home so that she can study for an 
exam
on ___ that she is very anxious about. She endorses ongoing
anxiety about the future, her finances, her health and fears an
impending breakup with her boyfriend. She also notes multiple
psychosocial stressors in the form of what she describes as
"over-controlling roommates and friends" whom she reports state
that her boyfriend and her are not a "good match". She endorses
that her low mood has been alienating others recently and 
without
the support of her boyfriend recently, whom she feels has been
pushing her away and distancing himself from her, she has felt
more lonely and depressed. She notes regret and guilt about 
using
her boyfriend "as my therapist" and notes that "that's why he
wants to break up with me...it's too much for anyone to be 
around
me." While she reports future-oriented thinking, she endorses
ruminative, hopeless thoughts about herself and her future. "

In the ED, no physical or chemical restraints were required.

On interview today, she has been going through a lot stress
lately. For the past month she notes feeling sad most days,
namely due to stress of school, financial stress ($50 spending
cash per month) which prevent her from doing social activities,
having to organize an ___ event, and interpersonal conflicts
with her roommates. For the past 2 to 3 weeks she notes having
suicidal thoughts. She describes the thoughts as "I want to get
out". These thoughts increased in frequency until she said "it
kind of all built up." Today, she admits her motivation when she
was running to the bank of the ___ was a want "to end her
pain". She said she verbalized to her boyfriend "I wanna get 
out,
I wanna get out" as she was running. She states though that she
stopped prior to jumping because three reasons: 1. she thought 
of
people that care about her and felt she could not do that to
others 2. a fear of pain, and 3. her ___ faith. She voices
regret about the event, and she understands why her boyfriend
called ___. She reiterates feeling likely she is burdening her
boyfriend and family because of her mental illness (e.g "I feel
horrible for people having to deal with me"). She notes very
frequent rumination regarding her future, her fertility in
setting of PCOS, and her health problems contributing to her
decline in school. She states she "wants to have hope", but she
has been finding it difficult because of her current situation.
Several times during the interview she stated that she can't
blame herself for health problems, but she also cannot afford 
the
treatment. Denies problems with sleep and appetite. Notes she 
can
usually concentrate well after she talks to someone about her
worries, which she feels is the way she processes things.

REVIEW OF SYSTEMS:
Psychiatric: 
---Depression: See HPI
---Anxiety: See HPI
---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech.  
---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.
-General: Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, changes in vision, changes in
hearing, heat intolerance, cold intolerance, polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, blood in stools,
dysuria, increased urinary frequency, rash, skin changes, joint
pain, muscle pain, edema, bruising, bleeding.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: self-reported depression
-Hospitalizations: denies
-Partial hospitalizations: denies
-Psychiatrist: denies
-Therapist: denies; states that she cannot afford a therapist 
and
so has not tried to find one
-Medication trials: denies
-___ trials: denies
-Suicide attempts: denies
-Self-injurious behavior: denies
-Harm to others: denies
-Trauma: bullying since ___ grade through ___ grade (physical
and verbal bullying; denies sexual abuse)
-Access to weapons: denies

PAST MEDICAL HISTORY:
PCP: ___ Health
PMH: PCOS, GERD; Denies history of head trauma, seizure.

MEDICATIONS:
___ birth control

ALLERGIES: 
NKDA

 
Social History:
SUBSTANCE USE HISTORY:
Denies history or current use of any substances

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
-Psychiatric Diagnoses: mother and father are "worriers"
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
ON ADMISSION:

T 98.4 F , HR 79 , BP 122/83 , RR 18 , SpO2 100% on RA

EXAM:

General: no acute distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Asian female appearing stated age, well groomed,
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "sad"
-Affect: Mood-congruent, restricted but still reactive, tearful
at times, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: circumstantial, although still somewhat
goal-oriented, no loose associations
-Thought Content:
---Safety: Denies active SI, but does note chronic suicidal
thoughts, denies HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

ON DISCHARGE:

MENTAL STATUS:
- Appearance: well groomed
- Behavior: engaging, cooperative
- Mood: "Good"
- Affect: stable, brighter, no irritability, relaxed, hopeful
- Speech: normal rate, volume, and tone
- Thought process: reality oriented, goal-oriented, 
- Thought Content: denies SI/HI, denies AH/VH/delusions
- Judgment and Insight: Fair/Fair

 
Pertinent Results:
___: BLOOD
GLUCOSE-88 UREA N-13 CREAT-0.7 SODIUM-140 POTASSIUM-3.8 
CHLORIDE-104 TOTAL CO2-19* ANION GAP-17
ASA-NEG ETHANOL-NEG ACETMNPHN-NEG tricyclic-NEG
WBC-7.1 RBC-4.57 HGB-13.5 HCT-40.4 MCV-88 MCH-29.5 MCHC-33.4 
RDW-12.8 RDWSD-41.9
NEUTS-69.5 ___ MONOS-6.3 EOS-0.4* BASOS-0.6 IM ___ 
AbsNeut-4.94 AbsLymp-1.62 AbsMono-0.45 AbsEos-0.03* AbsBaso-0.04
PLT COUNT-260

___: URINE
UCG-NEGATIVE
bnzodzpn-NEG barbitrt-NEG opiates-NEG cocaine-NEG amphetmn-NEG 
oxycodn-NEG mthdone-NEG
COLOR-Yellow APPEAR-Clear SP ___
BLOOD-NEG NITRITE-NEG PROTEIN-30* GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-SM*
RBC-2 WBC-3 BACTERIA-NONE YEAST-NONE EPI-2
MUCOUS-FEW*
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. On ___, patient signed 3 day 
notice, but after working with treatment team was agreeable to 
being discharged on ___ and rescinded her 3 day notice. She 
was also placed on q15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted. She did not require physical or chemical 
restraints during his hospitalization. 

2. PSYCHIATRIC:
Upon admission, the patient reported depressive symptoms 
including guilt, depressed mood, hopelessness, and helplessness. 
Patient mentioned many psychosocial
stressors including tenuous relationship with her boyfriend 
(main support
system), interpersonal conflicts with friends, and significant 
financial stressors. Her history was notable for ___ 
bullying and long term history of self
reported depression with chronic suicidal ideation. On mental 
status exam, patient noted mood to be sad and her affect was 
congruent with her being tearful at times. Her thought process 
was circumstantial and verbose and denied active SI on the unit 
itself.  

The patient’s presentation was concerning for Major depressive 
disorder, recurrent, severe, without psychotic features and 
anxiety disorder NOS.

The patient was started on Zoloft 12.5 mg, which was increased 
to 25 mg for mood stability. The patient was initially very 
reluctant to start medications due to her own and her parents' 
beliefs, however she was agreeable to trying it. She tolerated 
the medication well and found it to be helpful for her mood. On 
discharge she will take 37.5mg for 5 days and then switch to 
50mg daily. Her sleep pattern, appetite, energy normalized. She 
no longer experienced SI at discharge.

3. SUBSTANCE USE DISORDERS:
#)N/A

4. MEDICAL
#)PCOS: Patient continued ___ (21) ___ mg-mcg oral qhs

5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  She was often visible in the 
milieu and was appropriate in her interaction with peers and 
staff without ever requiring restraint or seclusion. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT

The patient’s family was involved in the patients’ treatment and 
discharge planning, and was provided with the opportunity to 
discuss the patient’s diagnosis and treatment with the primary 
treatment team. The patient’s family was supportive of the 
patient’s treatment and aftercare plan.
- On ___, had family meeting with patient's father who had 
difficult time understanding severity of patient's condition. 
Attempted to minimize the SI and attributed it to her boyfriend 
and stress with grades and was unable to express understanding 
that patient's condition was secondary to depression. He was 
encouraged to support her and not put pressure on her. However, 
after family meeting still did not understand why she needed to 
stay in hospital until ___ and requested that she be 
discharged a day earlier. 
 
#) INTERVENTIONS
- Medications: Sertraline titrating up to 50mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: College Re-entry: ___ at 9:30am
___, ___
Clinical Case Manager
___
Ph: ___
Fax: ___

Therapy and Psychiatry Intake: ___ at 9:00am
Therapist: ___ 
Psychiatrist: ___ Counseling Services
___, ___
Ph: ___
Fax: ___
Please arrive 15 minutes to appointment, bring your insurance 
card and an ID with you. 

PCP: ___ discuss during ___ re-entry meeting to 
schedule follow-up appointment.
___
Ph: ___
Fax: ___

- Behavioral Interventions: Patient would benefit from 
consistent outpatient therapy.
- Guardianships: N/A
 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation 
with plan. Her static factors noted at that time include age and 
history of trauma from bullying (physical and verbal bullying). 
Her modifiable risk factors included suicidal ideation with 
plan, limited insight, hopelessness, limited coping skills, no 
established outpatient treatment, recent stressors (financial). 
The modificable risk factors were addressed during 
hospitalization via medication management, psychotherapeutic 
intervention, and aftercare coordination.  Finally, the patient 
is being discharged with many protective risk factors, including 
future-oriented viewpoint, sense of responsibility to family, no 
prior suicide attempts, reality testing ability, good coping 
skills, no history of substance use disorder, spirituality, and 
strong social supports.  Overall, the patient is not at an 
acutely elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ (___) (norethindrone ac-eth estradiol) ___ mg-mcg 
oral DAILY 

 
Discharge Medications:
1.  Sertraline 25 mg PO DAILY 
Please take 1.5 tablets for the next 5 days and then increase it 
to 2 tablets a day in the morning 
RX *sertraline 25 mg 1.5 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
2.  ___ (21) (norethindrone ac-eth estradiol) ___ mg-mcg 
oral qhs  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent severe with no psychotic 
features
Anxiety NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___